US06288120B1
Ethyl 7-(Biphenyl4-ylmethyl-methanesulfonyl-amino)-heptanoate
Tetrakis(trphenylphosphine)palladium(0) (102 mg, 0.09 mmol), aqueous Na2CO3 (0.9 mL, 1 M), and phenyl boronic acid (216 mg, 1.77 mmol) were added to a solution of ethyl 7-{[4-iodobenzyl]-methanesulfonyl-amino}-heptanoate (415 mg, 0.89 mmol) in toluene (37 mL) and EtOH (7 mL). The reaction mixture was heated at reflux for 3 h. The solution was diluted with EtOAc and was washed with water (2×) followed by brine (1×). The organic solution was dried over MgSO4, filtered, and concentrated in vacuo. Purification by radial chromatography (10% EtOAc-hexanes to 30% EtOAC/hexanes) provided the title compound of Step A (298 mg). 1H NMR (400 MHz, CDCl3) δ 7.62-7.30 (m, 4H), 4.41 (s, 2H), 4.12 (q, 2H), 3.20 (t, 2H), 2.82 (s, 3H), 2.23 (t, 3H), 1.58 (m, 4H), 1.35 (m, 7H); MS 418.3 (M+).

reactant | Na2CO3 | 1 M, 0.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | phenyl boronic acid | 1.77 mmol, 216 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ethyl 7-{[4-iodobenzyl]-methanesulfonyl-amino}-heptanoate | 0.89 mmol, 415 mg | IC1=CC=C(CN(CCCCCCC(=O)OCC)S(=O)(=O)C)C=C1 | C17H26INO4S
solvent | toluene | 37 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 7 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 7-(Biphenyl4-ylmethyl-methanesulfonyl-amino)-heptanoate | 298 mg | C1(=CC=C(C=C1)CN(CCCCCCC(=O)OCC)S(=O)(=O)C)C1=CC=CC=C1 | C23H31NO4S
